US05840917
5-Bromo-4-methyl-2-thiophenecarboxylic acid (3.33 g) was dissolved in dimethylformamide (50 ml), and potassium carbonate (4.0 g) and iodomethane (4.0 ml) were added. The mixture was stirred at room temperature for 2 hours, diluted with ethyl acetate, washed with 1N hydrochloric acid, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 5-bromo-4-methyl-2-thiophenecarboxylic acid methyl ester (3.47 g). A mixture of 5-bromo-4-methyl-2-thiophenecarboxylic acid methyl ester (2.36 g), zinc powder (1.65 g), acetic acid (10 ml) and water (10 ml) was stirred under reflux for 3 hours. Zinc powder (1 g) and acetic acid (10 ml) were further added. The mixture was stirred under reflux for 1 day, cooled, poured into concentrated aqueous ammonia and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 4-methyl-2-thiophenecarboxylic acid methyl ester (1.42 g). 4-Methyl-2-thiophenecarboxylic acid methyl ester (1.42 g) was dissolved in a mixture of methanol (10 ml) and tetrahydrofuran (30 ml), and 1N aqueous sodium hydroxide (15 ml) was added. The mixture was stirred at room temperature for 1 hour and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with diethyl ether. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 4-methyl-2-thiophenecarboxylic acid (1.16 g).

reactant | 5-Bromo-4-methyl-2-thiophenecarboxylic acid | 3.33 g | BrC1=C(C=C(S1)C(=O)O)C | C6H5BrO2S
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 4.0 ml | IC | CH3I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-4-methyl-2-thiophenecarboxylic acid methyl ester | 3.47 g | COC(=O)C=1SC(=C(C1)C)Br | C7H7BrO2S
